US05652238
(c) 1-(tert-butoxycarbonyl)-4-[2,6-difluoro-4-(benzyloxycarbonyl)aminophenyl]piperazine
The 1-(tert-butoxycarbonyl)-4-(2,6-difluoro-4-nitrophenyl)piperazine (44.7 g, 130 mmol) was dissolved in 20% THF/MeOH (600 mL) in a 2 L flask. Ammonium formate (41 g, 651 mmol) was added portionwise, followed by 10% Pd-C (1.12 g, 2.5 weight %), with cooling in an ice bath. When the addition was completed the ice bath was removed. The flask became slightly warm, and the yellow color disappeared. The reaction mixture was filtered through Celite (washing the filter cake with 500 mL MeOH). The filtrate was concentrated under reduced pressure to give a solid which was then treated with 1 L EtOAc and 500 mL H2O. The layers were separated and then the organic layer was washed again with H2O (500 mL) and once with brine (500 mL). The aqueous portions were back-extracted with more EtOAc (2×300 mL). The combined organic extracts were dried over anhydrous Na2SO4, filtered and concentrated to yield a yellow solid. The crude material was recrystallized from hot EtOAc/hexane to afford 39.11 g (67%) of the title compound as a pale yellow crystalline solid with mp 171°-172° C.

reactant | 1-(tert-butoxycarbonyl)-4-(2,6-difluoro-4-nitrophenyl)piperazine | 130 mmol, 44.7 g | C(C)(C)(C)OC(=O)N1CCN(CC1)C1=C(C=C(C=C1F)[N+](=O)[O-])F | C15H19F2N3O4
reactant | Ammonium formate | 651 mmol, 41 g | C(=O)[O-].[NH4+]
reactant | EtOAc | 1 L | CCOC(=O)C | C4H8O2
reactant | H2O | 500 mL | O | H2O
solvent | THF MeOH | 600 mL | C1CCOC1.CO
catalyst | Pd-C | 1.12 g | [Pd] | Pd
product | 1-(tert-butoxycarbonyl)-4-[2,6-difluoro-4-(benzyloxycarbonyl)aminophenyl]piperazine | 39.11 g, 67% | C(C)(C)(C)OC(=O)N1CCN(CC1)C1=C(C=C(C=C1F)NC(=O)OCC1=CC=CC=C1)F | C23H27F2N3O4
